US04937350
Preparation of N-(3-(((4-bromo-3-methylphenyl)amino)sulfonyl)-1H-1,2,4-triazol-5-yl)formamide [Formula VIII: R=CH3 ; Y=-NHC(O)H]
A mixture of 4-bromo-3-methylaniline (3.72 g, 20 mmol) and 5-formamido-1,2,4-triazole-3-sulfonyl chloride (2.10 g, 10 mmol) in 50 mL of acetonitrile was refluxed under nitrogen until all of the sulfonyl chloride has been consumed (approximately 1 hr). The mixture was cooled and filtered. The precipitate was dispersed in 200 mL of 1% aqueous HCl solution and filtered again to yield the title compound as a white solid, 3.0 g (84%) m.p. 282°-284° C., M+ -Br at 280.

reactant | 4-bromo-3-methylaniline | 20 mmol, 3.72 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 5-formamido-1,2,4-triazole-3-sulfonyl chloride | 10 mmol, 2.10 g | C(=O)NC1=NC(=NN1)S(=O)(=O)Cl | C3H3ClN4O3S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(3-(((4-bromo-3-methylphenyl)amino)sulfonyl)-1H-1,2,4-triazol-5-yl)formamide | BrC1=C(C=C(C=C1)NS(=O)(=O)C1=NNC(=N1)NC=O)C | C10H10BrN5O3S
